US08802713B2
1.0 g of ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-5-carboxylate was dissolved in 20 mL of dimethylsulfoxide, and 0.47g of potassium carbonate was added, followed by stirring at room temperature for 5minutes. To this solution, 1.14 g of 2,2,3,3,3-pentafluoropropyl nonafluorobutanesulfonate was added, followed by stirring at room temperature for 12hours. Extraction with ethyl acetate was carried out, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (developing solvent ethyl acetate:hexane=1:4) to obtain 1.1 g of ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylate.

reactant | ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole-5-carboxylate | 1.0 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)OCC)O | C15H14F4N2O3S
reactant | potassium carbonate | 0.47g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,3,3,3-pentafluoropropyl nonafluorobutanesulfonate | 1.14 g | FC(C(C(C(S(=O)(=O)OCC(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C7H2F14O3S
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
product | ethyl 1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-(2,2,3,3,3-pentafluoropropoxy)pyrazole-5-carboxylate | 1.1 g | FC1=C(C=C(C(=C1)C)SCC(F)(F)F)N1N=C(C=C1C(=O)OCC)OCC(C(F)(F)F)(F)F | C18H15F9N2O3S
